US06093732
A mixture of 2-fluoro-4-methylaniline (5.0 g) and diethyl ethoxymethylene-malonate (8.64 g) is heated to 130° C. for 2 h with removal of ethanol by a Dean-Stark trap. The mixture is cooled to 75° C. and diphenyl ether (50 mL) is added. The solution is heated to 250° C. for 2 h with removal of ethanol by a Dean-Stark trap, then cooled to room temperature. The resulting solid is collected, washed with hexanes and dried to yield 5.564 g of ethyl 8-fluoro-4-hydroxy-6-methylquinoline-3-carboxylate. A mixture of this ester (0.50 g) and 4-chlorobenzylamine (3.0 mL) are heated at 180° C. for 1 hour. The reaction is cooled and poured into 50 mL of diethyl ether. The resulting solid is filtered, dried, and purified by trituration in acetone to give the desired product (0.54 g).

reactant | 2-fluoro-4-methylaniline | 5.0 g | FC1=C(N)C=CC(=C1)C | C7H8FN
reactant | diethyl ethoxymethylene-malonate | 8.64 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diphenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 8-fluoro-4-hydroxy-6-methylquinoline-3-carboxylate | 5.564 g | FC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)C | C13H12FNO3
